US09302996B2
In trifluoroacetic acid (3.1 mL) and water (0.31 mL) was dissolved the mixture of 2,2-dimethyl-3-[(4-methyl-5-{5-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]-methyl}-1H-imidazol-2-yl]pyrazin-2-yl}pyridin-2-yl)oxy]propanoic acid and 2,2-dimethyl-3-[(4-methyl-5-{5-[5-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]pyrazin-2-yl}pyridin-2-yl)oxy]-propanoic acid obtained in the above-mentioned 5), and the solution was stirred at room temperature. Acetic acid was added to the residue obtained by concentrating the solution under reduced pressure, and the resulting mixture was concentrated under reduced pressure. Isopropyl ether was added to the solid residue to pulverize the same, and the pulverized material was dried to obtain 2,2-dimethyl-3-[(4-methyl-5-{5-[5-(trifluoromethyl)-1H-imidazol-2-yl]pyrazin-2-yl}pyridin-2-yl)oxy]propanoic acid (197 mg).

reactant | 2,2-dimethyl-3-[(4-methyl-5-{5-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]-methyl}-1H-imidazol-2-yl]pyrazin-2-yl}pyridin-2-yl)oxy]propanoic acid | CC(C(=O)O)(COC1=NC=C(C(=C1)C)C1=NC=C(N=C1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C | C25H32F3N5O4Si
reactant | 2,2-dimethyl-3-[(4-methyl-5-{5-[5-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]pyrazin-2-yl}pyridin-2-yl)oxy]-propanoic acid | CC(C(=O)O)(COC1=NC=C(C(=C1)C)C1=NC=C(N=C1)C=1N(C(=CN1)C(F)(F)F)COCC[Si](C)(C)C)C | C25H32F3N5O4Si
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | trifluoroacetic acid | 3.1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 0.31 mL | O | H2O
product | 2,2-dimethyl-3-[(4-methyl-5-{5-[5-(trifluoromethyl)-1H-imidazol-2-yl]pyrazin-2-yl}pyridin-2-yl)oxy]propanoic acid | 197 mg | CC(C(=O)O)(COC1=NC=C(C(=C1)C)C1=NC=C(N=C1)C=1NC(=CN1)C(F)(F)F)C | C19H18F3N5O3
